US04599336
For enzyme assay, 100-200 μl of enzyme was incubated in the presence and absence of test compound (prepared in DMSO) for 10 minutes at 30° C. in 0.05M Tris-HCl buffer (pH 7.2) containing 1 mM glutathione, 2 mM CaCl2, 14 μM indomethacin and 0.25 and 0.5 mM EDTA (final volume 400 μl). The final DMSO concentration in these assays was 4%. The assay was initiated by the addition of 100 μl 14C-arachidonic acid (58 mCi/mmole) and incubations were carried out for 10 minutes at 37° C. in a shaking water bath. The reactions were stopped by the simultaneous addition of 4.0 ml of diethylether and 100 μl of 1.0 m citric acid, while the tubes were vigorously vortexed. The 14C-5-HETE generated by the enzyme was extracted into the acidified ether layer which was separated from the aqueous layer by freezing the assay tubes in a dry ice/acetone bath prior to decanting the liquid ether layer. The ether layer was evaporated to dryness under N2, the residue dissolved in 65 μl chloroform:methanol (2:1 v/v), prior to separating 14C-5-HETE from other 14C-labeled compounds on silica gel impregnated glass fiber TLC plates utilizing an elution solvent of isoctane:methylethylketone:acetic acid (100:9:1 v/v). 14C-5-HETE was identified by its co-chromatography with a chemically synthesized standard. The radioactive peaks of the chromatogram were cut out and the radioactivity was quantitated by liquid scintillation counting. The amount of 5-HETE obtained per sample was expressed as the percent of total and was calculated in the basis of: ##EQU2## in order to evaluate the effect of the test compounds, the mean percent inhibition of 14C-5-HETE production was calculated. The IC50 for a drug was determined from a linear regression analysis of a plot of the mean percent inhibition vs drug concentration.

reactant | glutathione | 1 mM | N[C@H](C(=O)O)CCC(=O)N[C@@H](CS)C(=O)NCC(=O)O | C10H17N3O6S
reactant | CaCl2 | 2 mM | [Cl-].[Cl-].[Ca+2]
reactant | indomethacin | 14 μM | CC1=C(C=2C=C(C=CC2N1C(=O)C=3C=CC(=CC3)Cl)OC)CC(=O)O | C19H16ClNO4
reactant | EDTA | 0.5 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
solvent | DMSO | CS(=O)C | C2H6OS
solvent | Tris-HCl | 0.05M, pH 7.2 | C(C(CO)(CO)N)O.Cl
product | 5-HETE | CCCCCC=CCC=CCC=CC=CC(CCCC(=O)O)O | C20H32O3
